US04388469
A mixture of 5.0 g of 1-(p-fluorophenyl)-4-phenyl-1-butanol, 10 g of γ-dimethylaminopropyl chloride, 2.0 g of sodium hydride (65%) and 100 ml of toluene was heated under refluxing for 30 minutes. After cooling, the reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous sodium sulfate, concentrated under reduced pressure and chromatographed on silica gel to give 1-[3-(N,N-dimethylamino)propoxy]-1-(p-fluorophenyl)-4-phenylbutane. M.P., 80°-83° C. (fumarate).

reactant | 1-(p-fluorophenyl)-4-phenyl-1-butanol | 5.0 g | FC1=CC=C(C=C1)C(CCCC1=CC=CC=C1)O | C16H17FO
reactant | γ-dimethylaminopropyl chloride | 10 g | CN(CCCCl)C | C5H12ClN
reactant | sodium hydride | 2.0 g | [H-].[Na+]
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 1-[3-(N,N-dimethylamino)propoxy]-1-(p-fluorophenyl)-4-phenylbutane | CN(C)CCCOC(CCCC1=CC=CC=C1)C1=CC=C(C=C1)F | C21H28FNO
